US06660744B1
trans-2-Phenyl-1-cyclopropanecarbonyl chloride (32 mg, 0.176 mmol) in dichloromethane (0.3 mL) was added to a solution of trans-3-(4-amino-2-fluoro-5-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine (80 mg, 0.176 mmol) in pyridine (1.5 mL) at 0° C. After 5 minutes the ice-water bath was removed and the reaction mixture was stirred at room temperature for 3 hours. More trans-2-phenyl-1-cyclopropanecarbonyl chloride (32 mg, 0.176 mmol) was added to ensure the reaction went to completion. Solvent was evaporated and the residue was purified by flash column chromatography to give trans-N1-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-5-fluoro-2-methoxyphenyl)-2-phenyl-1-cyclopropanecarboxamide (93 mg, 88%). 1H NMR (DMSO-d6) δ 1.35 (m, 1H), 1.50 (m, 3H), 1.98 (m, 6H), 2.19 (s, 3H), 2.37-2.68 (m, 11H), 3.87 (s, 3H), 4.64 (m, 1H), 7.09 (m, 1H), 7.21 (m, 3H), 7.31 (m, 2H), 8.21 (m, 2H), 9.82 (m, 1H). LCMS (Thermoquest AQA single Quad MS, Finnigan HPLC-Column: Genesis, C18, 3 um, 33×4.6 mm. Eluents: 30% B/A to 95% B/A in 4.5 min. (B: acetonitrile, A: 50 mM ammonia acetate buffer, pH 4.5), 0.8 mL/min.): MH+ =599.3, Rt=1.97 min.

reactant | trans-2-Phenyl-1-cyclopropanecarbonyl chloride | 0.176 mmol, 32 mg | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
reactant | trans-3-(4-amino-2-fluoro-5-methoxyphenyl)-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.176 mmol, 80 mg | NC1=CC(=C(C=C1OC)C1=NN(C2=NC=NC(=C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C)F | C23H31FN8O
reactant | trans-2-phenyl-1-cyclopropanecarbonyl chloride | 0.176 mmol, 32 mg | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)Cl | C10H9ClO
solvent | dichloromethane | 0.3 mL | ClCCl | CH2Cl2
solvent | pyridine | 1.5 mL | N1=CC=CC=C1 | C5H5N
product | trans-N1-(4-{4-amino-1-[4-(4-methylpiperazino)cyclohexyl]-1H-pyrazolo[3,4-d]pyrimidin-3-yl}-5-fluoro-2-methoxyphenyl)-2-phenyl-1-cyclopropanecarboxamide | 93 mg, 88% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2F)NC(=O)[C@H]2[C@@H](C2)C2=CC=CC=C2)OC)C2CCC(CC2)N2CCN(CC2)C | C33H39FN8O2
